### PR TITLE
[Merged by Bors] - feat: more theorems about `Matrix.charpoly`

### PR DESCRIPTION
**Pull request by eric-wieser**
The `eval` lemma was needed in the matrix cookbook.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean [hunk 1]
```diff
@@ -101,6 +129,36 @@ alias ⟨BlockTriangular.of_charmatrix, BlockTriangular.charmatrix⟩ := charmat
...
+
+theorem charpoly_natCast (k : ℕ) :
+    charpoly (k : Matrix n n R) = (X - (k : R[X])) ^ Fintype.card n := by
+  simp [charpoly]
+
+theorem charpoly_ofNat (k : ℕ) [k.AtLeastTwo] :
+    charpoly (ofNat(k) : Matrix n n R) = (X - ofNat(k)) ^ Fintype.card n:=
+  charpoly_natCast _
+
+theorem eval_charpoly (A : Matrix m m R) (r : R) :
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean:151]: nit: I think this file is easier to follow if this lemma is placed just before cayley-hamilton, since all the others are about the polynomial (or polynomial matrix) itself whereas this is about evaluation of the polynomial, like cayley-hamilton is

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean [hunk 2]
```diff
@@ -101,6 +129,36 @@ alias ⟨BlockTriangular.of_charmatrix, BlockTriangular.charmatrix⟩ := charmat
 def charpoly (M : Matrix n n R) : R[X] :=
   (charmatrix M).det
 
+@[simp]
+theorem charpoly_zero : charpoly (0 : Matrix n n R) = X ^ Fintype.card n := by
+  simp [charpoly]
+
+theorem charpoly_diagonal (d : n → R) : charpoly (diagonal d) = ∏ i, (X - C (d i)) := by
+  simp [charpoly]
+
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean:138]:
```suggestion
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean [hunk 3]
```diff
@@ -58,6 +58,34 @@ theorem charmatrix_apply_ne (h : i ≠ j) : charmatrix M i j = -C (M i j) := by
...
     map_apply, sub_eq_neg_self]
 
+@[simp]
+theorem charmatrix_zero : charmatrix (0 : Matrix n n R) = Matrix.scalar n (X : R[X]) := by
+  simp [charmatrix]
+
+@[simp]
+theorem charmatrix_diagonal (d : n → R) :
+    charmatrix (diagonal d) = diagonal fun i => X - C (d i) := by
+  rw [charmatrix, scalar_apply, RingHom.mapMatrix_apply, Matrix.diagonal_map (map_zero _),
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean:68]:
```suggestion
  rw [charmatrix, scalar_apply, RingHom.mapMatrix_apply, diagonal_map (map_zero _),
```
(untested, but it looks like it should work?)

**Review by b-mehta — APPROVED** [review]
Looks reasonable! bors d+

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean:151]: I'd argue the opposite; this belongs immediately after the definition, to support the docstring

> The characteristic polynomial of a matrix `M` is given by $\det (t I - M)$.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean:151]: (I guess I should rename my variables to match)

Comment (b-mehta) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean:151]: I'm happy with it immediately after the definition too, my real confusion was that it was in the middle of an otherwise reasonable chain

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean]: I've moved it and added the `LinearMap` version too.

**Comment by eric-wieser** [comment]
bors r-

I forgot to rename the variables
